US07375227B2
431E. 1-(2-Amino-ethyl)-4-benzyl-piperidine-4-carboxylic acid ethyl ester
4-Benzyl-1-(2-benzyloxycarbonylamino-ethyl)-piperidine-4-carboxylic acid ethyl ester (4.25 g, 10 mmol) is dissolved in MeOH (100 mL) and Pd—C (10%, 0.5 g) is added. The mixture is hydrogenated (7 bar, 20° C.) for 2 h. The catalyst is filtered off and the solvent evaporated to provide the title compound.

reactant | 4-Benzyl-1-(2-benzyloxycarbonylamino-ethyl)-piperidine-4-carboxylic acid ethyl ester | 10 mmol, 4.25 g | C(C)OC(=O)C1(CCN(CC1)CCNC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C25H32N2O4
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd—C | 0.5 g | [Pd] | Pd
product | 1-(2-Amino-ethyl)-4-benzyl-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CCN)CC1=CC=CC=C1 | C17H26N2O2
